US05883106
C. 4-(3-Bromophenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxylic acid
A stirred mixture of ethyl 4-(3-bromophenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate (36.5 g, 117 mmol), an aqueous solution of lithium hydroxide (6.14 g, 146 mmol, 50 ml), methanol (150 ml) and THF (150 ml) was refluxed for 1 day. The reaction mixture was partitioned between ether (100 ml) and 10% aqueous potassium hydroxide solution (300 ml). The ethereal layer was separated, extracted with 10% aqueous potassium hydroxide solution (2×100 ml) and discarded. The combined aqueous extracts were acidified with concentrated hydrogen chloride and the resulting white precipitates were collected by filtration, washed with water and dried to constant weight under vacuum at 80° C. to give the titled compound as white solids (26.4 g, 79%).

reactant | ethyl 4-(3-bromophenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate | 117 mmol, 36.5 g | BrC=1C=C(C=CC1)C1(CCOCC1)C(=O)OCC | C14H17BrO3
reactant | lithium hydroxide | 146 mmol, 50 ml, 6.14 g | [OH-].[Li+]
reactant | methanol | 150 ml | CO | CH4O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 4-(3-Bromophenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxylic acid | 26.4 g, 79% | BrC=1C=C(C=CC1)C1(CCOCC1)C(=O)O | C12H13BrO3
